US06277502B1
A mixture of 5 g of 6-bromo-2-naphthol, 50 ml of dimethyl sulfoxide, 3.9 ml of 6-bromoheptane, 7.1 g of potassium iodide and 7.1 g of milled potassium carbonate activated at 80° C. in high vacuum is heated to 65° C. for 16 hours. It is then cooled and is partitioned between ethyl acetate and water and the organic phase is washed several times with water, dried over magnesium sulfate, filtered and evaporated down. Chromatography of the residue over 200 g of silica gel using toluene and subsequent crystallization from toluene/hexane (8:1) give 6-bromo-2-heptyloxynaphthalene.

reactant | 6-bromo-2-naphthol | 5 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | 6-bromoheptane | 3.9 ml | BrC(CCCCC)C | C7H15Br
reactant | potassium iodide | 7.1 g | [I-].[K+]
reactant | potassium carbonate | 7.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 6-bromo-2-heptyloxynaphthalene | BrC=1C=C2C=CC(=CC2=CC1)OCCCCCCC | C17H21BrO
